US06103762
(c) methyl 2-hydroxy-4-[3-hydroxy-3-(4,4-dimethylchroman-8-yl)prop-1-ynyl]benzoate
3.00 g (13.9 mmol) of α-ethynyl-4,4-dimethylchroman-8-methanol, 3.90 g (13.9 mmol) of methyl 2-hydroxy-4-iodobenzoate and 100 ml of triethylamine are introduced into a three-necked flask. The reaction mixture is degassed with nitrogen for 30 minutes and then 780 mg (1.1 mmol) of bis(triphenylphosphine)palladium(II) chloride and 320 mg (1.7 mmol) of copper iodide are successively added. The reaction mixture is stirred at room temperature for 4 hours and is evaporated to dryness and the residue obtained is taken up in water and ethyl ether. The organic phase is separated by settling, dried over magnesium sulphate and evaporated. The residue obtained is purified by chromatography on a silica column eluted with a mixture composed of 50% ethyl acetate and 50% heptane. 2.85 g (56%) of methyl 2-hydroxy-4-[3-hydroxy-3-(4,4-dimethylchroman-8-yl)prop-1-ynyl]benzoate are collected in the form of a white solid with a melting point of 122-123° C.

reactant | α-ethynyl-4,4-dimethylchroman-8-methanol | 13.9 mmol, 3.00 g | C(#C)C(O)C=1C=CC=C2C(CCOC12)(C)C | C14H16O2
reactant | methyl 2-hydroxy-4-iodobenzoate | 13.9 mmol, 3.90 g | OC1=C(C(=O)OC)C=CC(=C1)I | C8H7IO3
reactant | triethylamine | 100 ml | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
solvent | ethyl ether | C(C)OCC | C4H10O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 1.1 mmol, 780 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 1.7 mmol, 320 mg | [Cu](I)I
product | methyl 2-hydroxy-4-[3-hydroxy-3-(4,4-dimethylchroman-8-yl)prop-1-ynyl]benzoate | OC1=C(C(=O)OC)C=CC(=C1)C#CC(C=1C=CC=C2C(CCOC12)(C)C)O | C22H22O5
